US08937071B2
To a solution of 4-amino-N,N-dimethyl-2-(trifluoromethyl)benzamide (8.3 g, 23.59 mmol) in THF (100 mL) stirred under a N2 atmosphere at 20° C. was added BH3.DMS (11.20 mL, 118 mmol) dropwise. The reaction mixture was stirred at 80° C. for 2 h. To the solution was added MeOH, then concentrated in vacuo to give the crude product. The crude material was purified by silica column chromatography (DCM/MeOH=30:1). All fractions found to contain product by TLC (DCM/MeOH=10:1, Rf=0.4) were combined and concentrated to yield light yellow oil of 4-((dimethylamino)methyl)-3-(trifluoromethyl)aniline (4 g, 18.33 mmol, 78.0% yield): 1H NMR (400 MHz, CD3OD) δ 7.99 (d, J=8.0 Hz, 1H), 7.73 (s, 1H), 7.67 (d, 8.0 Hz, 1H), 4.57 (s, 2H), 2.96 (s, 6H); ES-LCMS m/z 219.2 (M+H).

reactant | 4-amino-N,N-dimethyl-2-(trifluoromethyl)benzamide | 23.59 mmol, 8.3 g | NC1=CC(=C(C(=O)N(C)C)C=C1)C(F)(F)F | C10H11F3N2O
reactant | DMS | 118 mmol, 11.20 mL | CSC | C2H6S
reactant | MeOH | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-((dimethylamino)methyl)-3-(trifluoromethyl)aniline | 18.33 mmol, 4 g, 78.0% yield | CN(C)CC1=C(C=C(N)C=C1)C(F)(F)F | C10H13F3N2
